US07595320B2
1.19 g (3.81 mmol) of 3,5-dibromo-1-(1-ethoxyethyl)-1H-pyrazole-4-carboxaldehyde are introduced with stirring into 50 mL of ethanol under an argon atmosphere at a temperature in the region of 20° C., followed by addition of 0.4 g (3.81 mmol) of sodium carbonate and 0.42 mL (3.81 mmol) of ethyl 2-mercaptoacetate. The reaction mixture is then refluxed for 2 hours, and then concentrated to dryness under reduced pressure (2.7 kPa). The residue is taken up in 60 mL of water and 60 mL of dichloromethane, and the phases are separated by settling. The organic phase is dried over magnesium sulfate and then concentrated to dryness under reduced pressure (2.7 kPa). 1.17 g of ethyl 3-bromo-1-(1-ethoxyethyl)-1H-thieno[2,3-c]pyrazole-5-carboxylate are thus obtained in the form of a pale yellow oil that crystallizes to give cream-colored crystals melting at 69° C.

reactant | 3,5-dibromo-1-(1-ethoxyethyl)-1H-pyrazole-4-carboxaldehyde | 3.81 mmol, 1.19 g | BrC1=NN(C(=C1C=O)Br)C(C)OCC | C8H10Br2N2O2
reactant | sodium carbonate | 3.81 mmol, 0.4 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl 2-mercaptoacetate | 3.81 mmol, 0.42 mL | SCC(=O)OCC | C4H8O2S
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | ethyl 3-bromo-1-(1-ethoxyethyl)-1H-thieno[2,3-c]pyrazole-5-carboxylate | 1.17 g | BrC=1C2=C(N(N1)C(C)OCC)SC(=C2)C(=O)OCC | C12H15BrN2O3S
